US04795815
Under a nitrogen atmosphere, allyl 3-(benzyloxycarbonyl)-7-(R,S)-[2-(2-(allyloxycarbonylamino)thiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-8-oxo-1,5-diazabicyclo[3,3.0]octa-2-ene-2-carboxylate (340 mg, 0.54 mmol) was suspended in a mixture of acetonitrile (10 ml) and diethyl ether (5 ml) then palladium(II) acetate (6.1 mg, 0.027 mmol,) and triphenylphosphine (56.7 mg, 0.216 mmol,) were added. Acetone (20 ml) was added and the resultant solution was stirred for 30 minutes at room temperature then cooled to 0° C. Tri(n-butyl)tin hydride (0.3 ml, 1.1 mmol) was added and the solution was stirred for 1.5 hours at room temperature. 12N hydrochloric acid (0.09 ml, 1.1 mmol) was added and the solution was concentrated in vacuo. The resultant residue was dissolved in methylene chloride, diethyl ether was added to effect precipitation and the precipitate was collected by filtration to give 3-(benzyloxycarbonyl)-7-(R,S)-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-8-oxo-1,5 -diazabicyclo[3.3.0]octa-2-ene-2-carboxylic acid: n.m.r. (90 MHz, DMSO-d6): δ 2.60-4.14 (m, 5), 3.76 (s, 3), 4.64-5.20 (m, 2), 5.04 (s, 2), 7.12 (br. s, 2), 7.24 (br. s, 5), 9.01 (br. d, 1, J=7); i.r. (KBr): 3417, 1696, 1662, 1617, 1521, 1442, 1396, 1380, 1331, 1272 cm-1 ; u.v. (EtOH); λmax =231 (ε=15547), 329 (ε=11296); m.p. d>160° C.°, f.a.b.m.s. (m/e) M+1=501.

reactant | allyl 3-(benzyloxycarbonyl)-7-(R,S)-[2-(2-(allyloxycarbonylamino)thiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-8-oxo-1,5-diazabicyclo[3,3.0]octa-2-ene-2-carboxylate | 0.54 mmol, 340 mg | C(C1=CC=CC=C1)OC(=O)C1=C(N2C(C(CN2C1)NC(\C(=N/OC)\C=1N=C(SC1)NC(=O)OCC=C)=O)=O)C(=O)OCC=C | C28H28N6O9S
reactant | triphenylphosphine | 0.216 mmol, 56.7 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Tri(n-butyl)tin hydride | 1.1 mmol, 0.3 ml | C(CCC)[SnH](CCCC)CCCC
reactant | hydrochloric acid | 1.1 mmol, 12N, 0.09 ml | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
catalyst | palladium(II) acetate | 0.027 mmol, 6.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Acetone | 20 ml | CC(=O)C | C3H6O
product | 3-(benzyloxycarbonyl)-7-(R,S)-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-8-oxo-1,5 -diazabicyclo[3.3.0]octa-2-ene-2-carboxylic acid | C(C1=CC=CC=C1)OC(=O)C1=C(N2C(C(CN2C1)NC(\C(=N/OC)\C=1N=C(SC1)N)=O)=O)C(=O)O | C21H20N6O7S
